US09217004B2
(2-amino-5-bromo-4-chlorophenyl)methanol (8.2 g, 34.7 mmol), 3,5-dimethylacetophenone (8.22 g, 55.5 mmol), RuCl2(PPh3)3 (0.15 g, 0.173 mmol), and KOH (1.31 g, 23.4 mmol) was refluxed in 90 mL of toluene for 18 hours. Water was collected from the reaction using a Dean-Stark trap. The reaction mixture was allowed to cool to room temperature and filtered through a silica gel plug and eluted with DCM and purified by column chromatography, eluting with 2:1 (v/v) hexanes:DCM, to give 6-bromo-7-chloro-2-(3,5-dimethylphenyl)quinoline (5.2 g, 43.3%).

reactant | (2-amino-5-bromo-4-chlorophenyl)methanol | 34.7 mmol, 8.2 g | NC1=C(C=C(C(=C1)Cl)Br)CO | C7H7BrClNO
reactant | 3,5-dimethylacetophenone | 55.5 mmol, 8.22 g | CC1=CC(=CC(=C1)C(=O)C)C | C10H12O
reactant | KOH | 23.4 mmol, 1.31 g | [OH-].[K+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-7-chloro-2-(3,5-dimethylphenyl)quinoline | 5.2 g, 43.3% | BrC=1C=C2C=CC(=NC2=CC1Cl)C1=CC(=CC(=C1)C)C | C17H13BrClN
